US07582775B2
D. 1-{4-[1-Ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (2131468) (PF1-A03098-163)
4-[1-Ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenol (7.80 g, 22.9 mmol), 1-bromopinacolone (8.20 g, 45.8 mmol), and K2CO3 (6.32 g, 45.8 mmol) in acetone (100 mL) are reacted analogous to Example 1D to provide the title compound (9.20 g, 92%).

reactant | 4-[1-Ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenol | 22.9 mmol, 7.80 g | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)OC)C2=CC(=C(C=C2)O)C | C21H24O2S
reactant | 1-bromopinacolone | 45.8 mmol, 8.20 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 45.8 mmol, 6.32 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-{4-[1-Ethyl-1-(5-methoxy-benzo[b]thiophen-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 9.20 g, 92% | C(C)C(CC)(C1=CC2=C(S1)C=CC(=C2)OC)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C27H34O3S
